US07351719B2
ethyl 2-[2-(2-chloro-4-trifluoromethyl-phenoxy)-acetylamino]-5-(2-diethylamino-ethoxy)-benzoate
The product was obtained according to general working method I starting from 1.00 g (3.567 mmol) (2-chloro-4-trifluoromethyl-phenoxy)-acetic acid (Z2b) and 0.908 g (3.567 mmol) ethyl 2-amino-5-(2-diethylamino-ethoxy)-benzoate (Z25c).

reactant | (2-chloro-4-trifluoromethyl-phenoxy)-acetic acid | 3.567 mmol, 1.00 g | ClC1=C(OCC(=O)O)C=CC(=C1)C(F)(F)F | C9H6ClF3O3
reactant | ethyl 2-amino-5-(2-diethylamino-ethoxy)-benzoate | 3.567 mmol, 0.908 g | NC1=C(C(=O)OCC)C=C(C=C1)OCCN(CC)CC | C15H24N2O3
product | ethyl 2-[2-(2-chloro-4-trifluoromethyl-phenoxy)-acetylamino]-5-(2-diethylamino-ethoxy)-benzoate | ClC1=C(OCC(=O)NC2=C(C(=O)OCC)C=C(C=C2)OCCN(CC)CC)C=CC(=C1)C(F)(F)F | C24H28ClF3N2O5
